US06545033B1
2-[2,6-Dichloro-4-(trifluoromethyl)phenyl]-3-methyl-4,5,6,7-tetrahydro-2H-indazole (34)
2-Acetylcyclohexanone (0.12 mL, 1 mmol) and 2,6-dichloro-4-trifluoromethylphenylhydrazine (245 mg, 1 mmol) in EtOH (10 mL) was heated under reflux for 12 hr. EtOH was removed under reduced pressure and the product purified by flash chromatography on silica (10% EtOAc:Hexane): yield 67%. 1H NMR (CDCl3) δ 7.8 (s, 2H), 2.7 and 2.05 (m, 2H each), 2.05 (s, 3H), 1.9 (m, 4H); MS (M+) 349.

reactant | 2-Acetylcyclohexanone | 1 mmol, 0.12 mL | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 1 mmol, 245 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-[2,6-Dichloro-4-(trifluoromethyl)phenyl]-3-methyl-4,5,6,7-tetrahydro-2H-indazole | yield 67% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C2CCCCC2=C1C | C15H13Cl2F3N2
